US05725798
Then, 0.07 g of 5% palladium/carbon and 10 ml of a tetrahydrofuran solution containing 0.63 g of 4-((R)-1-trifluoromethylheptyloxycarbonyl)benzoic acid benzyl ester were stirred overnight at room temperature in a stream of hydrogen to decompose a benzyl protective group by hydrogenation. 5% palladium/carbon was removed using Celite as a filter aid, and the filtrate was concentrated. The concentrate obtained was purified by column chromatography to obtain 0.49 g of 4-((R)-1-trifluoromethylheptyloxycarbonyl)benzoic acid as a colorless liquid (gradually crystallized) (isolated yield: 98%).

reactant | 4-((R)-1-trifluoromethylheptyloxycarbonyl)benzoic acid benzyl ester | 0.63 g | C(C1=CC=CC=C1)OC(C1=CC=C(C=C1)C(=O)O[C@H](CCCCCC)C(F)(F)F)=O | C23H25F3O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | 0.07 g | [Pd] | Pd
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-((R)-1-trifluoromethylheptyloxycarbonyl)benzoic acid | 0.49 g, yield: 98% | FC([C@@H](CCCCCC)OC(=O)C1=CC=C(C(=O)O)C=C1)(F)F | C16H19F3O4
